US08455659B2
Step G-1: Methyl octanimidate hydrochloride
Methanol (2.81 g) and methyl acetate (30 ml) were added to octanenitrile (10.00 g), and the mixture was cooled to 0° C. Hydrogen chloride (7.50 g) was added and the mixture was stirred for 25 hours at the same temperature. Methylcyclohexane (60 ml) was added to the reaction solution, and then the solvent was distilled off under reduced pressure. Methylcyclohexane (20 ml) was added to the residue, the mixture was stirred for 1.5 hours at room temperature, and then crystals were filtered. The crystals were washed with methylcyclohexane and dried under reduced pressure to give the title compound as a white solid (14.45 g, 93.4% yield).

reactant | methyl acetate | 30 ml | C(C)(=O)OC | C3H6O2
reactant | octanenitrile | 10.00 g | C(CCCCCCC)#N | C8H15N
reactant | Hydrogen chloride | 7.50 g | Cl | ClH
reactant | Methylcyclohexane | 60 ml | CC1CCCCC1 | C7H14
solvent | Methanol | 2.81 g | CO | CH4O
product | Methyl octanimidate hydrochloride | 14.45 g, 93.4% yield | Cl.C(CCCCCCC)(OC)=N | InChI=1S/C9H19NO.ClH/c1-3-4-5-6-7-8-9(10)11-2;/h10H,3-8H2,1-2H3;1H
